US06660744B1
A mixture of 4-bromobenzophenone (2.97 g, 0.011 mol), diboron pinacol ester (3.47 g, 0.014 mol), [1.1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.28 g, 0.00034 mol) and potassium acetate (3.34 g, 0.034 mol) in N,N-dimethylformamide (65 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Dichloromethane (50 mL) was added to the residue and the resulting solid was removed by filtration through a pad of celite. The filtrate was concentrated to leave a yellow oil which was purified by flash chromatography on silica using ethyl acetate/n-heptane (5:95) as mobile phase to yield phenyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methanone (2.01 g, 0.0065 mol):

reactant | 4-bromobenzophenone | 0.011 mol, 2.97 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | diboron pinacol ester | 0.014 mol, 3.47 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00034 mol, 0.28 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.034 mol, 3.34 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 65 mL | CN(C=O)C | C3H7NO
product | phenyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methanone | 0.0065 mol, 2.01 g | C1(=CC=CC=C1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H21BO3
